US05387700
Preparation of 2,3:4,5-bis-O-(1-methylethylidene)-β-D-fructopyranose
Under nitrogen, acetone (144.0 L, 113.0 kg, 1946 mol) was cooled to 0°-10° C. With stirring, concentrated sulfuric acid (7.2 L, 13.2 kg, 135.6 mol) was added gradually (approx. 0.5 h) so that the temperature did not exceed 20° C. (jacket temperature at -15° C.). External cooling was discontinued and D-fructose (12.0 kg, 66.6 mol) was added gradually (in 2.0 kg portions) over 2 h while maintaining the temperature between 8°-15° C. The suspension was stirred at room temperature for an additional 2-3 h after all the fructose had dissolved. The solution was then cooled to 5° C. and 50% sodium hydroxide (24.0 kg, 297.6 mol) was added at a rate so as to maintain the solution temperature below 20° C. (addition was complete in 1 h with a jacket temperature at -15° C.). The resulting slurry was centrifuged to remove the precipitated salt (sodium sulfate). Solvent was removed from the filtrate by vacuum distillation and the residual oil was stored at room temperature. The semi-solid reaction product was dissolved in t-butyl methyl ether (48.8 kg, 66.4 L). The solution was washed with distilled water (2×9.0 L) and concentrated to give an oil. The oil was dissolved in hexane (24.0 L)/isopropanol (3.5 L) with gradual warming to 60° C. The product crystallized with cooling. The solid was collected by centrifugation and dried in a vacuum oven at 38° C. for 8.0 h to give 10.8 kg (62.4% yield, 100.8% purity by GLC) of a white solid, mp 95°-96° C.

reactant | acetone | 1946 mol, 144.0 L, 113.0 kg | CC(=O)C | C3H6O
reactant | sulfuric acid | 135.6 mol, 7.2 L, 13.2 kg | S(O)(O)(=O)=O | H2O4S
reactant | D-fructose | 66.6 mol, 12.0 kg | OCC(=O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | sodium hydroxide | 297.6 mol, 24.0 kg | [OH-].[Na+]
reactant | t-butyl methyl ether | 66.4 L, 48.8 kg | COC(C)(C)C | C5H12O
solvent | hexane | 24.0 L | CCCCCC | C6H14
solvent | isopropanol | 3.5 L | C(C)(C)O | C3H8O
product | 2,3:4,5-bis-O-(1-methylethylidene)-β-D-fructopyranose | 62.4% yield | CC1(O[C@@H]2CO[C@@]3([C@H]([C@@H]2O1)OC(O3)(C)C)CO)C | C12H20O6
